* OVERALL BEST CANDIDATE: 00_Phase_3_220V_Mains_to_5V_USB_Hub_Buck_g3_cand3_b7
* FITNESS SCORE: 0.9123
*
* Generated: 2026-06-05T19:36:33
* Constraint: Phase 3: 220V Mains to 5V USB Hub (Buck)
*   vin_min = 200
*   vin_max = 240
*   vout_target = 5
*   efficiency_target = 0.92
*   power_in = 200
* Candidate: 9 of 12
* Grouped name: g3_cand3
*
Vin in 0 10
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 100u
L2 sw2 out 100u
C1 out 0 220u
Rload out 0 0.125
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 5.8u 10u)
Vgate2 gate2 0 PULSE(0 12 5.8u 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
